US05420130
3.2. 2-[4-(2-Methoxyphenyl)piperazin-1-yl]ethanamine trihydrochloride
9.24 g of 2-[4-(2-methoxyphenyl)piperazin-1-yl)-N-(triphenylmethyl)ethanamine are dissolved in 400 ml of methanol and, after homogenization, a stream of gaseous hydrochloric acid is passed into the solution for 10 min. The precipitate is collected, rinsed with methanol and dried under vacuum. 5.33 g of white solid are obtained.

reactant | 2-[4-(2-methoxyphenyl)piperazin-1-yl)-N-(triphenylmethyl)ethanamine | 9.24 g | COC1=C(C=CC=C1)N1CCN(CC1)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H35N3O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
product | 2-[4-(2-Methoxyphenyl)piperazin-1-yl]ethanamine trihydrochloride | 5.33 g | Cl.Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCN | InChI=1S/C13H21N3O.3ClH/c1-17-13-5-3-2-4-12(13)16-10-8-15(7-6-14)9-11-16;;;/h2-5H,6-11,14H2,1H3;3*1H
